US07456177B2
Preparation of 3-tert-Butyl-3,4,9-triaza-tricyclo[5.3.1.0 2,6]undeca-2(6),4-diene
Following the method described in Example 14, 3-benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one and t-butyl hydrazine were converted to the title compound in 7.5% overall yield. APCl MS m/z 206.2 (M+H)+.

reactant | 3-benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one | C(C1=CC=CC=C1)N1CC2C(C(C(C1)C2)=O)=CN(C)C | C17H22N2O
reactant | t-butyl hydrazine | C(C)(C)(C)NN | C4H12N2
product | 3-tert-Butyl-3,4,9-triaza-tricyclo[5.3.1.0 2,6]undeca-2(6),4-diene | C(C)(C)(C)N1C=2C3CNCC(C2C=N1)C3 | C12H19N3
